US04266025
Preparation of 1-benzyloxycarbonylamino-1-desoxy-D-glucitol:
Benzyloxycarbonyl chloride was added dropwise to 3.7 kg of 1-amino-1-desoxy-D-glucitol (about 70% pure) in 7 liters of H2O, whilst stirring vigorously, and the pH was kept at 8-9 with 2 N sodium hydroxide solution. The batch was allowed to warm to 40°-50° C. during this operation. The batch was then further stirred overnight at room temperature and the precipitate was filtered off, washed with acetone and recrystallised from water.

reactant | Benzyloxycarbonyl chloride | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 1-amino-1-desoxy-D-glucitol | 3.7 kg | NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | H2O | 7 liters | O | H2O
product | 1-benzyloxycarbonylamino-1-desoxy-D-glucitol | C(C1=CC=CC=C1)OC(=O)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C14H21NO7
